US07462622B2
1-Trityloxy-butan-2-ol
To a solution of 1,2-butandiol (2 g) in anh. pyridine (15 mL) was added triphenylmethyl chloride (8 g). The dark reaction mixture was heated at 100° C. for 8 hr and stirred at r.t. for 18 hr. The mixture was then poured in EtOAc/H2O, the phases were separated and the organic layer was washed with sat. aq. NaCl and dried over Na2SO4. The solids were filtered and the solvent evaporated. The residual pyiridine was eliminated by filtration through a pad of silica gel (cHex/EtOAc 8/2). The solvent was evaporated and the residue was purified by flash chromatography (silica gel, cHex/EtOAc 95:5) to give the title compound (2.67 g)

reactant | 1,2-butandiol | 2 g | C(C(CC)O)O | C4H10O2
reactant | triphenylmethyl chloride | 8 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc H2O | CCOC(=O)C.O
product | 1-Trityloxy-butan-2-ol | 2.67 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OCC(CC)O | C23H24O2
